US07977344B2
6-Amino-2-[(2-cyclopropylethyl)oxy]-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-purin-8-one
To a solution of 2-[(2-cyclopropylethyl)oxy]-8-methoxy-9-(tetrahydro-3-furanylmethyl)-9H-purin-6-amine (103.8 mg) in methanol (5 mL) was added 4N HCl in 1,4-dioxane (2 mL) and the reaction mixture was stirred at room temperature for 4 h. The reaction was evaporated under reduced pressure to give a gum. Water (3 mL) was added to give a white solid. The mixture was adjusted to pH 7 by adding 2N sodium hydroxide solution and the white solid was filtered off under suction, then washed with a few drops of MeOH. The material was air dried under suction, then in a vacuum oven (50° C.) to give the title compound as white solid (77 mg).

reactant | 2-[(2-cyclopropylethyl)oxy]-8-methoxy-9-(tetrahydro-3-furanylmethyl)-9H-purin-6-amine | 103.8 mg | C1(CC1)CCOC1=NC(=C2N=C(N(C2=N1)CC1COCC1)OC)N | C16H23N5O3
reactant | HCl | 4N | Cl | ClH
reactant | Water | 3 mL | O | H2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 6-Amino-2-[(2-cyclopropylethyl)oxy]-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-purin-8-one | 77 mg | NC1=C2NC(N(C2=NC(=N1)OCCC1CC1)CC1COCC1)=O | C15H21N5O3
